US04536402
(E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide
A mixture of 30.0 gm (0.118 mol) of (E)-2-[(amino)-phenylmethylene]-benzo[b]thiophen-3(2H)-one, 200 ml of glacial acetic acid and 13.5 gm (0.119 mol) of an aqueous 30% hydrogen peroxide solution was heated at 50° C. for four hours while stirring, and was then allowed to stand overnight at room temperature. After the addition of 100 ml of a 10% sodium sulfite solution, the solvent was largely distilled off in vacuo, and the residue was mixed with 300 ml of water. The solid precipitated thereby was suction-filtered off and recrystallized from ethanol/ethyl acetate (1:1 v/v) using activated charcoal. 23.0 gm (72% of theory) of light yellow crystals were obtained, m.p. 246°-247° C. (decomposition).

reactant | (E)-2-[(amino)-phenylmethylene]-benzo[b]thiophen-3(2H)-one | 0.118 mol, 30.0 gm | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NOS
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | (E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide | N\C(=C\1/C(C2=C(S1=O)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NO2S
